US06335337B1
b) 2-[4-(4-Cyanophenyl)-3-oxopiperazino]acetic acid (compound 2b)
A suspension of ethyl 2-[2-(4-cyanoanilino)ethyl(2-ethoxy-2-oxoethyl)amino]acetate (58 g, 0.174 mol), diisopropylethylamine (4 g, 0.03 mol) and potassium carbonate (24 g, 0.174 mol) in 400 ml of acetonitrile is refluxed for 2 days. The mixture is filtered and rinsed with dichloromethane. The filtrate is evaporated to give a brown solid, which is dissolved in 150 ml of methanol and 50 ml of water, followed by addition of lithium hydroxide monohydrate (8.4 g, 0.2 mol). After stirring for 30 minutes at room temperature, half of the methanol is removed under vacuum to give a suspension. About 100 ml of water are added and the mixture is acidified at 5° C. The product is filtered off, rinsed with water and dried under vacuum at 50° C. to give 27.2 g of a beige-coloured powder.

reactant | ethyl 2-[2-(4-cyanoanilino)ethyl(2-ethoxy-2-oxoethyl)amino]acetate | 0.174 mol, 58 g | C(#N)C1=CC=C(NCCN(CC(=O)OCC)CC(=O)OCC)C=C1 | C17H23N3O4
reactant | diisopropylethylamine | 0.03 mol, 4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium carbonate | 0.174 mol, 24 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium hydroxide monohydrate | 0.2 mol, 8.4 g | O.[OH-].[Li+]
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-[4-(4-Cyanophenyl)-3-oxopiperazino]acetic acid | 27.2 g, Yield=55% | C(#N)C1=CC=C(C=C1)N1C(CN(CC1)CC(=O)O)=O | C13H13N3O3
